US07153854B2
To a suspension of 6-{4-[4-(aminocarbonyl)phenyl]-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl}hexanoic acid (590 mg) in water (3 mL) was added 1N sodium hydroxide (15 mL) at ambient temperature. After 5 hours, the mixure became clear solution. The solution was filtered through membrane filter, washed with water (0.4 mL×3), and was freezedried for 15 hours to give 6-{4-[4-(aminocarbonyl)phenyl]-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl}hexanoic acid sodium salt (612 mg, 98.2%) as a pale yellow powder.

reactant | 6-{4-[4-(aminocarbonyl)phenyl]-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl}hexanoic acid | 590 mg | NC(=O)C1=CC=C(C=C1)C=1C=2N(N=C(C1CCCCCC(=O)O)C)C(=CC2)CC | C23H27N3O3
reactant | sodium hydroxide | 1N, 15 mL | [OH-].[Na+]
solvent | water | 3 mL | O | H2O
product | 6-{4-[4-(aminocarbonyl)phenyl]-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl}hexanoic acid sodium salt | 612 mg, 98.2% | [Na+].NC(=O)C1=CC=C(C=C1)C=1C=2N(N=C(C1CCCCCC(=O)[O-])C)C(=CC2)CC | InChI=1S/C23H27N3O3.Na/c1-3-18-13-14-20-22(16-9-11-17(12-10-16)23(24)29)19(15(2)25-26(18)20)7-5-4-6-8-21(27)28;/h9-14H,3-8H2,1-2H3,(H2,24,29)(H,27,28);/q;+1/p-1
